US07005432B2
5-(3-Isopropyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=293.3 (M+H+), was prepared from 2-(3-isopropyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-isopropyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C(C)(C)C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C15H23BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Isopropyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.C(C)(C)C=1C=C(C=CC1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C18H20N4.ClH/c1-13(2)15-5-4-6-16(9-15)17-10-18(21-20-11-17)12-22-8-7-19-14(22)3;/h4-11,13H,12H2,1-3H3;1H
